US04529698
(B) (±)-(cis)-3-Azido-1-(4-methoxyphenyl)-2-oxo-4-(2-phenylethenyl)azetidin
2-Azidoacetic acid (24.26 g) is dissolved in 100 ml of methylene chloride and cooled in an ice bath. To this solution is added 48.57 g of triethylamine and 14.24 g of N-(3-phenyl-2-propenylidene)-4-methoxyaniline dissolved in 250 ml of methylene chloride. To the resulting solution is added 50.41 g of trifluoroacetic anhydride dropwise over a one hour period. After stirring for one hour in an ice bath, the mixture is warmed to room temperature and stirred for about 16 hours. The mixture is then diluted with 250 ml of methylene chloride and washed with water (750 ml), 5% sodium bicarbonate solution (two 750 ml portions), and 1N HCl solution (750 ml). The organic layer is dried over anhydrous sodium sulfate and stripped of solvent to give a solid. The crude product is recrystallized from ethyl acetate to give 11.39 g of the title compound as a solid.

reactant | 2-Azidoacetic acid | 24.26 g | N(=[N+]=[N-])CC(=O)O | C2H3N3O2
reactant | triethylamine | 48.57 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-phenyl-2-propenylidene)-4-methoxyaniline | 14.24 g | C1(=CC=CC=C1)C=CC=NC1=CC=C(C=C1)OC | C16H15NO
reactant | trifluoroacetic anhydride | 50.41 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | (±)-(cis)-3-Azido-1-(4-methoxyphenyl)-2-oxo-4-(2-phenylethenyl)azetidin | 11.39 g | N(=[N+]=[N-])[C@@H]1C(N([C@@H]1C=CC1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | C18H16N4O2
